US04080502
(i) 2,4-Dioxo-1,2,3,4-tetrahydro-1,3,5-trimethyl-s-triazinium chloride
17.8 g (0.1 mol) of sodium dichlorocyanuric acid are added to 15.7 g (0.1 mol) of 2,4-dioxo-hexahydro-1,3,5-trimethyl-s-triazine in 50 ml of methanol and the mixture is stirred. The cyanuric acid which has precipitated is then filtered off and the filtrate is evaporated. The residue which remains on evaporation is digested with water. After renewed filtration to remove residual cyanuric acid, an aqueous solution of the same compound as in Example g is obtained.

reactant | sodium dichlorocyanuric acid | 0.1 mol, 17.8 g | ClN1C(N(C(NC1=O)=O)Cl)=O.[Na]
reactant | 2,4-dioxo-hexahydro-1,3,5-trimethyl-s-triazine | 0.1 mol, 15.7 g | O=C1N(CN(C(N1C)=O)C)C | C6H11N3O2
solvent | methanol | 50 ml | CO | CH4O
product | 2,4-Dioxo-1,2,3,4-tetrahydro-1,3,5-trimethyl-s-triazinium chloride | [Cl-].O=C1[NH+](CN(C(N1C)=O)C)C | InChI=1S/C6H11N3O2.ClH/c1-7-4-8(2)6(11)9(3)5(7)10;/h4H2,1-3H3;1H
